US09056859B2
1-[2-(4-nitrophenyl)ethyl]-1,4-diazepane hydrochloride was prepared in an analogous fashion to that described above for 1-[2-(4-nitrophenyl)ethyl]piperazine hydrochloride starting with 4-nitrophenethyl bromide and tert-butyl 1,4-diazepane-1-carboxylate. LC-MS: M+1=250.2.

reactant | 1-[2-(4-nitrophenyl)ethyl]piperazine hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCN1CCNCC1
reactant | 4-nitrophenethyl bromide | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
reactant | tert-butyl 1,4-diazepane-1-carboxylate | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
product | 1-[2-(4-nitrophenyl)ethyl]-1,4-diazepane hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCN1CCNCCC1 | InChI=1S/C13H19N3O2.ClH/c17-16(18)13-4-2-12(3-5-13)6-10-15-9-1-7-14-8-11-15;/h2-5,14H,1,6-11H2;1H
